US07687492B2
Step A: 2-Fluoro-1-methoxy-4-(methylthio)benzene
To a stirred solution of 4-bromo-2-fluoroanisole (5.0 g, 24.4 mmol) in THF (100 mL) was added n-butyllithium (23 mL, 1.6M in hexanes, 36.8 mmol) at −78° C. After stirring at −78° C. for 1 h, dimethyl disulfide (11 mL, 12.2 mmol) was added and the reaction was then allowed to warm to room temperature slowly. After stirring at room temperature for 12 h, the reaction was quenched with saturated aqueous ammonium chloride solution. The organic phase was separated and the aqueous phase was extracted with two portions of ethyl acetate. The combined organic layers were washed with brine and concentrated in vacuo. The residue was used directly in next step.

reactant | 4-bromo-2-fluoroanisole | 24.4 mmol, 5.0 g | BrC1=CC(=C(C=C1)OC)F | C7H6BrFO
reactant | n-butyllithium | 36.8 mmol, 1.6M, 23 mL | C(CCC)[Li]
reactant | dimethyl disulfide | 12.2 mmol, 11 mL | CSSC | C2H6S2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-1-methoxy-4-(methylthio)benzene | FC1=C(C=CC(=C1)SC)OC | C8H9FOS
